US03994939
6-Amino-2,2-dimethyl-3-(1-[pivaloyloxymethyl]tetrazol-5-yl)penam
The title compound is prepared as its hydrochloride, in 90% yield, from 6-(2-phenylacetamido)-2,2-dimethyl-3-(1-[pivaloyloxymethyl]tetrazol-5-yl)penam, using the method of Example III. The infrared spectrum (KBr disc) shows absorptions at 1780 cm-1 (β-lactam) and 1740 cm-1 (ester). The NMR spectrum (DMSO-d6) shows absorptions at 6.71 ppm (singlet, 2H, pivaloyloxy methylene hydrogens), 5.88 ppm (singlet, 1H, C-3 hydrogen), 5.83 ppm (doublet, 1H, C-5 hydrogen), 5.20 ppm (doublet, 1H, C-6 hydrogen), 1.80 ppm (singlet, 3H, C-2 methyl hydrogens), 1.20 ppm (singlet, 9H, t-butyl hydrogens) and 1.16 ppm (singlet, 3H, C-2 methyl hydrogens).

reactant | hydrochloride | Cl | ClH
reactant | 6-(2-phenylacetamido)-2,2-dimethyl-3-(1-[pivaloyloxymethyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2COC(C(C)(C)C)=O)C1=O | C22H28N6O4S
reactant | KBr | [K+].[Br-]
product | 6-Amino-2,2-dimethyl-3-(1-[pivaloyloxymethyl]tetrazol-5-yl)penam | 90% yield | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2COC(C(C)(C)C)=O)C1=O | C14H22N6O3S
